US09034891B2
Synthesis of 1-(2,8-dimethyl-1-thia-3,8-diazaspiro[4.5]dec-3-yl)-2-propylpentan-1-one (AF717)
2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane (982 mg, 5.28 mmol) was dissolved in dry dichloromethane (5 ml) under argon atmosphere. Distilled triethylamine (1.10 ml, 7.92 mmol) was added and the resulting solution was cooled to 0° C. Valproyl chloride (910 mg, 5.60 mmol) was added dropwise with a syringe. The reaction flask was allowed to warm to room temperature with stirring, and white solid started to precipitate. After 4 h of stirring, dichloromethane (100 ml) was added and the resulting solution was washed with water (10 ml). The two phases were separated and the aqueous phase was extracted with dichloromethane (2×50 ml). The combined organic phase was dried with sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (silica, CH2Cl2/EtOH/NH4OH 150/10/1) to give AF717 (521 mg, 99.2% chemical purity) as an off-white powder. 1H NMR (CDCl3, 300 MHz) δ 5.53, 5.26 (2q, J=6.12 and J=6.3 Hz, 1H, CHCH3), 4.67, 3.90 (2d, J=12.0 and J=11.35 Hz, 1H, CHHNCO), 3.48, 3.09 (2d, J=11.35 and J=12.0 Hz, 1H, CHHNCO), 2.78-2.59 (m, 2H, CH2N), 2.53-2.47 (m, 1H, CHCO), 2.30, 2.19 (2s, 3H, NCH3), 2.15-2.05 (m, 2H, CH2N), 2.02-1.84 (m, 2H, CH2CS), 1.74-1.61 (m, 4H, CH2CHCO), 1.55, 1.50 (2d, J=6.3 and J=6.12 Hz, 3H, CH3CH), 1.44-1.36 (m, 2H, CH2CS), 1.34-1.21 (m, 4H, CH2CH3), 0.93-0.87 (m, 6H, CH3CH2) ppm; 13C NMR (CDCl3, 300 MHz) δ 174.35, 174.04 (C), 59.13 (C), 57.35, 57.19 (CH), 54.52, 54.06 (CH2), 53.13, 52.77 (CH2), 46.09 (CH3), 43.77, 42.55 (CH), 38.37, 37.58 (CH2), 37.04, 36.20 (CH2), 35.76, 35.35 (CH2), 35.08, 34.77 (CH2), 26.01, 23.01 (CH3), 21.08, 20.98 (CH2), 20.73, 20.56 (CH2), 14.27, 14.22 (CH3) ppm.

reactant | 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane | 5.28 mmol, 982 mg | CC1SC2(CN1)CCN(CC2)C | C9H18N2S
reactant | triethylamine | 7.92 mmol, 1.10 ml | C(C)N(CC)CC | C6H15N
reactant | Valproyl chloride | 5.60 mmol, 910 mg | C(C(CCC)CCC)(=O)Cl | C8H15ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(2,8-dimethyl-1-thia-3,8-diazaspiro[4.5]dec-3-yl)-2-propylpentan-1-one | CC1SC2(CN1C(C(CCC)CCC)=O)CCN(CC2)C | C17H32N2OS
